US08835689B2
4-dimethylamino-4-(3-fluorophenyl)-cyclohexane carbaldehyde
KOtBu (2.15 g, 19.2 mmol) dissolved in abs. THF (25 mL) was added in drops to a solution of (methoxymethyl)triphenylphosphonium chloride (6.58 g, 19.2 mmol) in abs. THF (25 mL) at 0° C. in argon. The resulting red solution was mixed after 30 min at 0° C. with a solution of 4-dimethylamino-4-(3-fluorophenyl)cyclohexanone (3.0 g, 12.76 mmol) in abs. THF (25 mL) and stirred overnight at RT. The solvent was removed in a vacuum, the residue mixed with 1M sulphuric acid (50 mL) and stirred for 2 h. The precipitate precipitated out during this was separated and the filtrate (pH 1) washed with ether (6×30 mL). The aqueous solution was adjusted to pH 11 with 5N NaOH and extracted with ethyl acetate (3×50 mL). The combined organic phases were dried over Na2SO4 and concentrated to low volume in a vacuum.

reactant | KOtBu | 19.2 mmol, 2.15 g | CC(C)(C)[O-].[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 19.2 mmol, 6.58 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-dimethylamino-4-(3-fluorophenyl)cyclohexanone | 12.76 mmol, 3.0 g | CN(C1(CCC(CC1)=O)C1=CC(=CC=C1)F)C | C14H18FNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-dimethylamino-4-(3-fluorophenyl)-cyclohexane carbaldehyde | CN(C1(CCC(CC1)C=O)C1=CC(=CC=C1)F)C | C15H20FNO
